US07399775B2
5-[(3-Chloropyridin-4-yl)(2,5-difluorophenyl)methylsulfonyl]-2-fluoropyridine
Potassium fluoride (94 mg, 1.60 mmol) and tetraphenylphosphonium bromide (134 mg, 0.32 mmol) were added to a solution of 2-chloro-5-[(3-chloropyridin-4-yl) (2,5-difluorophenyl)methylsulfonyl]pyridine (66 mg, 0.16 mmol) in acetonitrile (2 ml). The resulting mixture was heated under reflux for 16 hours. The reaction mixture was cooled to room temperature. Dichloromethane was added and the mixture was washed with water. The organic layer was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated under reduced pressure. The residue was subjected to flash chromatography on a silica gel column and a fraction obtained from the elution portion with hexane:ethyl acetate=17:3 was concentrated under reduced pressure, whereby the title compound (4.5 mg, 0.011 mmol, 7%) was obtained as a white solid.

reactant | Potassium fluoride | 1.60 mmol, 94 mg | [F-].[K+]
reactant | 2-chloro-5-[(3-chloropyridin-4-yl) (2,5-difluorophenyl)methylsulfonyl]pyridine | 0.16 mmol, 66 mg | ClC1=NC=C(C=C1)S(=O)(=O)C(C1=C(C=CC(=C1)F)F)C1=C(C=NC=C1)Cl | C17H10Cl2F2N2O2S
reactant | Dichloromethane | ClCCl | CH2Cl2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetraphenylphosphonium bromide | 0.32 mmol, 134 mg | [Br-].C1(=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 5-[(3-Chloropyridin-4-yl)(2,5-difluorophenyl)methylsulfonyl]-2-fluoropyridine | 0.011 mmol, 4.5 mg, 7% | ClC=1C=NC=CC1C(S(=O)(=O)C=1C=CC(=NC1)F)C1=C(C=CC(=C1)F)F | C17H10ClF3N2O2S
